US08486979B2
3-(4-fluorophenyl)-5-(pyridin-3-yl)-1,2,4-oxadiazole
4-Fluoro-N′-hydroxybenzimidamide (0.154 g, 1 mmol) was dissolved in pyridine (10 mL) and nicotinoyl chloride (Aldrich, 0.141 g, 1 mmol) was added. The reaction mixture was heated to reflux for 3 hours and then cooled to room temperature. The cooled reaction mixture was quenched with water (25 mL) and filtered. The solid was further purified with flash column chromatography (5% methanol/dichloromethane) to give the titled product. 1H NMR (300 MHz, DMSO-d6) δ 7.47 (t, J=6.8 Hz, 2 H), 7.74-7.70 (m, 1 H), 8.20-8.15 (m, 2 H), 8.58-8.54 (m, 1 H), 8.91-8.89 (dd, J=1.7, 1.7 Hz, 1 H), 9.35 (d, J=1.4 Hz, 1 H) ppm; MS (DCI/NH3) m/z 242 (M+H)+.

reactant | 4-Fluoro-N′-hydroxybenzimidamide | 1 mmol, 0.154 g | FC1=CC=C(C(N)=NO)C=C1 | C7H7FN2O
reactant | nicotinoyl chloride | 1 mmol, 0.141 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-fluorophenyl)-5-(pyridin-3-yl)-1,2,4-oxadiazole | FC1=CC=C(C=C1)C1=NOC(=N1)C=1C=NC=CC1 | C13H8FN3O
